US08975282B2
Step 1) N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
A solution of 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)picolinamide (0.4 g, 0.86 mmol) and PhI(OAc)2 (419 mg, 1.5 mmol) in a mixture of EtOAc (8 mL), MeCN (8 mL) and H2O (4 mL) was cooled to 0° C. and stirred for 30 minutes. The reaction was then allowed to warm to rt, and stirred for another 8 h. The mixture was diluted with NaHCO3 (aq., 60 mL) and extracted with EtOAc (100 mL×3). The combined organic phases were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the title compound as a white solid (0.21 g, 56%).

reactant | 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)picolinamide | 0.86 mmol, 0.4 g | CN1N(C(C(=C1C)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)=O)C1=CC=CC=C1 | C24H20FN5O4
reactant | PhI(OAc)2 | 1.5 mmol, 419 mg | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | MeCN | 8 mL | CC#N | C2H3N
reactant | H2O | 4 mL | O | H2O
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
product | N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.21 g, 56% | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C23H20FN5O3
